US07465726B2
4-[4-(3-Chloro-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
Alternative synthesis: To a suspension of (3-chloro-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine trifluoroacetate (179.8 mg, 0.2457 mmol, 1 eq) and di-tert-butyldicarbonate (63.1 mg, 0.286 mmol, 1.16 eq) in anhydrous DCM (3 mL), Hünig's base (300 μL, 2 mmol, 7 eq) was added. Addition of anhydrous DMF (1 mL) aided solubility. The reaction was stirred at rt for 2 h and concentrated in vacuo. The crude material was adsorbed onto Hydromatrix, dry loaded, and purified by chromatography on silica gel [Jones Flashmaster, 10 g/70 mL cartridge, eluting with MeOH:DCM 1%→2%→5%→7%]. Fractions 35-53 were combined and concentrated in vacuo. The material was purified on the Mass Directed Purification System (MDPS), yielding the title compound as a white solid. 1H NMR (400 MHz, MeOH-d4): δ=1.50 (s, 9H), 2.49 (s, br, 2H), 3.64 (s, br, 2H), 4.12 (s, br, 2H), 6.27 (s, br, 1H), 6.39 (s, br, 1H), 7.56 (s, 2H), 8.06 (s, 1H), 8.14 (s, 1H). MS (ES+): m/z 465.95/467.97 [MH+]. HPLC: tR=2.67 min (ZQ2000, polar—5 min).

reactant | (3-chloro-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine trifluoroacetate | 0.2457 mmol, 179.8 mg, 1 eq | FC(C(=O)O)(F)F.ClC1=NNC2=CC=C(C=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2
reactant | di-tert-butyldicarbonate | 0.286 mmol, 63.1 mg, 1.16 eq | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Hünig's base | 2 mmol, 300 μL, 7 eq | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(3-Chloro-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC=2C=C3C(=NNC3=CC2)Cl)N1 | C23H24ClN7O2
